US08212041B2
A 50 mL recovery flask was charged with tert-butyl 4-(5-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)pyridin-2-yl)piperazine-1-carboxylate (0.250 g, 0.44 mmol), TFA (0.75 ml, 9.6 mmol), and DCM (1.50 ml, 23 mmol), then stirred at room temperature for 1.5 hours. The reaction mixture was concentrated, then quenched with sat. aq. NaHCO3. The mixture was diluted with DCM (60 mL), resulting in an emulsion. The emulsion was filtered to give a brown solid. The solid was triturated with a combination of DCM/MeOH/MeCN and filtered to give 7-methoxy-4-((6-(6-(piperazin-1-yl)pyridin-3-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)quinoline.

reactant | tert-butyl 4-(5-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)pyridin-2-yl)piperazine-1-carboxylate | 0.44 mmol, 0.250 g | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1N=C(C=C2)C=2C=CC(=NC2)N2CCN(CC2)C(=O)OC(C)(C)C | C30H32N8O4
reactant | TFA | 9.6 mmol, 0.75 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 23 mmol, 1.50 ml | C(Cl)Cl | CH2Cl2
product | 7-methoxy-4-((6-(6-(piperazin-1-yl)pyridin-3-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)quinoline | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1N=C(C=C2)C=2C=NC(=CC2)N2CCNCC2 | C25H24N8O2
